US06906133B2
Synthesis of the Homopolymer of Methyldiallylamine·HCl having an RSV of Less than 0.20 dL/g
A four-necked reaction flask was fitted with a glass stirring shaft connected to an overhead stirrer, a pH probe, a thermocouple, an additional funnel and a condenser. A Thermowatch® (manufactured by I-2-R, Instruments for Research and Industry Inc., Cheltenham, Pa.) was used to maintain the temperature throughout the reaction. The reaction flask was charged with 223 g of methyldiallylamine (MDAA, 98%, 2.0 moles). While cooling the reaction kettle with an ice bath, 189 g of 37% hydrochloric acid (HCl) was gradually added to the reactor through the addition funnel while stirring. The temperature of the reaction mixture was maintained below 25° C. Upon finishing the addition of hydrochloric acid, the ice bath was removed and the reaction mixture was stirred at ambient temperature for one hour, at which time the reaction mixture turned into a clear light yellow solution. Into this monomer amine salt solution, 0.5 g of Versenex® 80 (40% aqueous solution of the tetrasodium salt of ethylenediamine tetraacetate, available from Dow Chemical Co., Midland Mich.) and 200 g of deionized water were added. The pH probe was replaced with a N2 sparge, the addition funnel was replaced with a septum and a bubbler was attached to the condenser. An insulated heating mantle was then placed on the reaction flask. The stirrer was started at an agitation rate of 500 rpm and the heating temperature was set to 80° C. The reaction mixture was sparged with high purity N2 for 30 minutes. Meanwhile, an initiator solution of 18.2 g of ammonium persulfate (APS) dissolved in 40 mL of DI water was prepared. The APS solution was sparged with high purity N2 for 30 minutes. While maintaining the N2 sparge and heating, the APS solution was introduced into the reaction flask at a rate of 0.3 mL/min using a syringe pump. When 15 mL of the APS solution had been added to the reactor, the addition of APS solution was discontinued and the temperature was maintained at 80° C. for one hour. At the end of this one hour heating period, a second addition of 15 mL of APS solution was commenced at a rate of 0.3 mL/min using a syringe pump. When this portion of APS had been added to the reactor, the APS addition was discontinued and the reaction mixture was maintained at 80° C. for one hour. At this point the remaining 20 mL of APS solution was added to the reactor at a rate of 0.3 mL/min using a syringe pump. When this final portion of APS solution had been added the reaction mixture was maintained at 80° C. for one hour before turning off the heat. Analysis of the final product solution by 13C NMR showed that a MDAA monomer conversion of 99+% had been achieved. The RSV of the resin was 0.163 dL/g. Total solids of the final solution was 48.8% and the pH was 2.5.

reactant | methyldiallylamine | 2.0 moles, 223 g | CN(CC=C)CC=C | C7H13N
reactant | hydrochloric acid | 189 g | Cl | ClH
product | Methyldiallylamine·HCl | CN(CC=C)CC=C.Cl | InChI=1S/C7H13N.ClH/c1-4-6-8(3)7-5-2;/h4-5H,1-2,6-7H2,3H3;1H
